************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECE555
* Top Cell Name: AND2
* View Name:     schematic
* Netlisted on:  Nov 11 19:53:57 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!

*.PIN vss!
*+    vdd!

************************************************************************
* Library Name: ECE555
* Cell Name:    NAND2
* View Name:    schematic
************************************************************************

.SUBCKT NAND2 IN<0> IN<1> OUT
*.PININFO IN<0>:I IN<1>:I OUT:O
MM0 net1 IN<0> vss! vss! nmos_rvt w=108.00n l=20n nfin=4
Mnmos OUT IN<1> net1 vss! nmos_rvt w=108.00n l=20n nfin=4
MM1 OUT IN<1> vdd! vdd! pmos_rvt w=54.0n l=20n nfin=2
Mpmos OUT IN<0> vdd! vdd! pmos_rvt w=54.0n l=20n nfin=2
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    INV
* View Name:    schematic
************************************************************************

.SUBCKT INV IN OUT VDD VSS
*.PININFO IN:I OUT:O VDD:B VSS:B
MM0 OUT IN VSS VSS nmos_rvt w=54.0n l=20n nfin=2
MM1 OUT IN VDD VDD pmos_rvt w=54.0n l=20n nfin=2
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    AND2
* View Name:    schematic
************************************************************************

.SUBCKT AND2 IN<0> IN<1> OUT
*.PININFO IN<0>:I IN<1>:I OUT:O
XNAND IN<0> IN<1> net1 / NAND2
XINV net1 OUT / INV
.ENDS

